US04501687
Using the procedure of Example 7, 5 g of 1,8,8-trimethyl-2-oxa bicyclo [3,2,1] octan-3-ol and 15 g of triphenyl isopropyl phosphonium iodide were reacted and the product was chromatographed over silica gel and was eluted with an 8-2 cyclohexane-ethyl acetate mixture to obtain 4.1 g of (1R,S) 1,2,2-trimethyl-3-(3-methyl-2-butenyl)-cyclopentanol.

reactant | 1,8,8-trimethyl-2-oxa bicyclo [3,2,1] octan-3-ol | 5 g | CC12OC(CC(CC1)C2(C)C)O | C10H18O2
reactant | triphenyl isopropyl phosphonium iodide | 15 g | [I-].C1(=CC=CC=C1)[P+](C(C)C)(C1=CC=CC=C1)C1=CC=CC=C1
product | (1R,S) 1,2,2-trimethyl-3-(3-methyl-2-butenyl)-cyclopentanol | 4.1 g | C[C@@]1(C([C@@H](CC1)CC=C(C)C)(C)C)O | C13H24O
